US04760163
using sodium 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate and 3-bromo-1-propyne there is obtained 2-propynyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, m.p. 193°-195° C.,

reactant | sodium 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)[O-])C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O.[Na+]
reactant | 3-bromo-1-propyne | BrCC#C | C3H3Br
product | 2-propynyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OCC#C)C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O | C18H14ClFN2O4
